US07105507B2
1-(1,1-Dimethylethyl) 4-Phenylmethyl 4-(3-Butenyl)-1,4-piperidinedicarboxylate
Lithium hexamethyldisilazide (1M in tetrahydrofuran, 15.7 mL, 15.7 mmol) was added dropwise to a stirred, cooled (−78° C.) solution of 1-(1,1-dimethylethyl) 4-phenylmethyl 1,4-piperidinedicarboxylate (2.50 g, 7.83 mmol) in tetrahydrofuran (50 mL) and the mixture was stirred at −78° C. for 2 hours. 4-Bromo-1-butene (1.99 mL, 19.6 mmol) was added dropwise and the mixture was stirred at −78° C. for 1 hour, then at room temperature for 2 hours. Water (100 mL) was added and the mixture was extracted with ethyl acetate (2×100 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (90:10) to give the title compound (1.07 g, 37%). 1H NMR (400 MHz CDCl3) δ 7.4–7.3 (5H, m), 5.75–5.6 (1H, m), 5.15 (2H, s), 4.93 (1H, br d, J 7 Hz), 4.90 (1H, br s), 3.95–3.75 (2H, m), 2.93–2.78 (2H, m), 2.13 (2H, br d, J 10 Hz), 1.95–1.85 (2H, m), 1.65–1.55 (2H, m), 1.44 (9H, s), and 1.43–1.30 (2H, m).

reactant | Lithium hexamethyldisilazide | 15.7 mmol, 1M, 15.7 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-(1,1-dimethylethyl) 4-phenylmethyl 1,4-piperidinedicarboxylate | 7.83 mmol, 2.50 g | N1(CCC(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO4
reactant | 4-Bromo-1-butene | 19.6 mmol, 1.99 mL | BrCCC=C | C4H7Br
reactant | Water | 100 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(1,1-Dimethylethyl) 4-Phenylmethyl 4-(3-Butenyl)-1,4-piperidinedicarboxylate | 1.07 g, 37% | C(CC=C)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C22H31NO4
